US07071340B2
Preparation of 7-acetyl-1-benzoxepin-3(2H)-one
0.084 ml (1.05 equivalents) of 1,8-diazabicyclo[5.4.0]undec-7-ene is added at ambient temperature, under nitrogen, to 184 mg (0.53 mmol) of 7-acetyl-5-(phenylsulfonyl)-4,5-dihydro-1-benzoxepin-3(2H)-one, prepared according to example 14, in suspension in 20 ml of dichloromethane. From the addition of the base, the medium becomes translucent and slightly yellow. After addition of water and 1N hydrochloric acid, the phases are separated by settling and then the aqueous phase is extracted three times with dichloromethane. The combined organic phases are washed with a saturated sodium hydrogencarbonate solution and then brine. After drying and then concentrating under vacuum, 90 mg (83%) of 7-acetyl-1-benzoxepin-3(2H)-one are obtained in the form of a white solid; M.p.=92–93° C.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.084 ml, 1.05 equivalents | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 7-acetyl-5-(phenylsulfonyl)-4,5-dihydro-1-benzoxepin-3(2H)-one | 0.53 mmol, 184 mg | C(C)(=O)C=1C=CC2=C(C(CC(CO2)=O)S(=O)(=O)C2=CC=CC=C2)C1 | C18H16O5S
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 7-acetyl-1-benzoxepin-3(2H)-one | C(C)(=O)C=1C=CC2=C(C=CC(CO2)=O)C1 | C12H10O3
